US05091384
Preparation of 3,8-diazabicyclo[4.3.0]non-1(6)-ene dihydrobromide
0.7 g of N3 -(benzyl)-3,8-diazabicyclo[4.3.0]non-1(6)-ene hydrobromide, prepared in Preparation 10, was dissolved in 20 ml of 5% aqueous acetic acid solution. 0.5 g of 10% palladium chracoal in this solution was suspended and the reaction mixture was refluxed under the hydrogen stream for 7 hours. The solid was filtered off. The filtrate was concentrated under reduced pressure and dissolved in 10 ml of 48% bromic acid. By concentrating the solution under reduced pressure again, 0.5 g of the title compound was obtained (yield 73%).

reactant | (benzyl)-3,8-diazabicyclo[4.3.0]non-1(6)-ene hydrobromide | Br.C(C1=CC=CC=C1)C1C=2CNCC2CCN1
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
catalyst | palladium | 0.5 g | [Pd] | Pd
product | 3,8-diazabicyclo[4.3.0]non-1(6)-ene dihydrobromide | 0.5 g, yield 73% | Br.Br.C1=2CNCCC2CNC1 | InChI=1S/C7H12N2.2BrH/c1-2-8-4-7-5-9-3-6(1)7;;/h8-9H,1-5H2;2*1H
